US07858621B2
A suspension of 2,6-difluoro-4-iodoaniline (1 g, 3.92 mmol) and Pd(OAc)2 (0.025 eq), DPPP (0.05 eq) in [bmim][3F3] (6 mL) was stirred for 10 min. After the mixture was degassed three times, butyl vinyl ether (5 eq) and Et3N (1.2 eq) were injected sequentially. The mixture was stirred for 15 hrs at 115° C. The mixture cooled to room temperature, and then was added 1N-HCl. After the mixture was stirred for 0.5 hour, CH2Cl2 was added. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The crude residue was purified by chromatography to give 1-(4-amino-3,5-difluoro-phenyl)-ethanone (300 mg, 45%).

reactant | 2,6-difluoro-4-iodoaniline | 3.92 mmol, 1 g | FC1=C(N)C(=CC(=C1)I)F | C6H4F2IN
reactant | DPPP | 0.05 eq | C1=CC=C(C=C1)P(CCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C27H26P2
reactant | butyl vinyl ether | 5 eq | C(=C)OCCCC | C6H12O
reactant | Et3N | 1.2 eq | CCN(CC)CC | C6H15N
reactant | HCl | Cl | ClH
catalyst | Pd(OAc)2 | 0.025 eq | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(4-amino-3,5-difluoro-phenyl)-ethanone | 300 mg, 45% | NC1=C(C=C(C=C1F)C(C)=O)F | C8H7F2NO
